US04851526
2-[3-Chlorophenoxy]ethylamine
Add 5.0 g (38.9 mmol) of 3-chlorophenol to a 0° C. suspension of 3.42 g (85.6 mmol, 2.2 eq., 60% by wt. in mineral oil) of sodium hydride in 100 mL of dry tetrahydrofuran. Once the 3-chlorophenol is dissolved add 9.93 g (85.6 mmol, 2.2 eq.) of 2-chloroethylamine hydrochloride and stir at room temperature for 17 hr. Concentrate the reaction mixture and partition between 200 mL of methylene chloride and 50 mL water. Dry the organic layer over Na2SO4 and concentrate in vacuo to obtain the title compound.

reactant | 3-chlorophenol | 38.9 mmol, 5.0 g | ClC=1C=C(C=CC1)O | C6H5ClO
reactant | sodium hydride | 85.6 mmol, 3.42 g, 2.2 eq. | [H-].[Na+]
reactant | 2-chloroethylamine hydrochloride | 85.6 mmol, 9.93 g, 2.2 eq. | Cl.ClCCN
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 2-[3-Chlorophenoxy]ethylamine | ClC=1C=C(OCCN)C=CC1 | C8H10ClNO
